US04191768
Preparation of 1,5-Bis[p-(1,1,2,2-tetrafluoroethoxy)phenyl]-1,4-pentadien-3-one
Aqueous sodium hydroxide (28.1 ml; 10%) is added dropwise, rapidly, to a stirred mixture of p-(1,1,2,2-tetrafluoroethoxy)benzaldehyde (11 ml; 0.069 mole), acetone (2.4 ml; 0.33 mole), absolute alcohol (135 ml) and water (14 ml). The reaction mixture exotherms to 30° C. The reaction mixture is then cooled, the precipitated material is filtered, washed and dried to afford 3.8 g (25%) of title product.

reactant | sodium hydroxide | 28.1 ml | [OH-].[Na+]
reactant | p-(1,1,2,2-tetrafluoroethoxy)benzaldehyde | 0.069 mole, 11 ml | FC(C(F)F)(OC1=CC=C(C=O)C=C1)F | C9H6F4O2
reactant | acetone | 0.33 mole, 2.4 ml | CC(=O)C | C3H6O
solvent | water | 14 ml | O | H2O
product | 1,5-Bis[p-(1,1,2,2-tetrafluoroethoxy)phenyl]-1,4-pentadien-3-one | 3.8 g, 25% | FC(C(F)F)(OC1=CC=C(C=C1)C=CC(C=CC1=CC=C(C=C1)OC(C(F)F)(F)F)=O)F | C21H14F8O3
